US08937071B2
A suspension of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (120 mg, 0.292 mmol) in MeOH (10 mL) was added to a solution of Pd/C (31.0 mg, 0.292 mmol) in MeOH (10 mL). The mixture was stirred under a H2 atmosphere at 26° C. for 2 h. Then the solution was filtered and concentrated. The crude material was purified by preparative HPLC (MeCN/H2O as eluants, acidic condition) to yield a light yellow solid of 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetic acid (80 mg, 0.275 mmol, 94.0% yield): 1H NMR (400 MHz, CD3OD) δ 7.14-7.53 (m, 5H), 4.01-4.21 (m, 2H), 3.60-3.68 (m, 2H), 1.46 (s, 3H); ES-LCMS m/z 292.1 (M+H).

reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.292 mmol, 120 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.292 mmol, 31.0 mg | [Pd] | Pd
product | 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetic acid | 0.275 mmol, 80 mg, 94.0% yield | C(C)OC1=CC(=CNC1=O)C1=CC(=C(C=C1)CC(=O)O)F | C15H14FNO4
